US04970213
A suspension of 0.98 g of 3-ethoxycarbonyl-7-fluoro-1-methoxy-8-(4-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine in 15 cm3 of ethanol, 9 cm3 water and 6 cm3 of 2 N aqueous potassium hydroxide solution is stirred at a temperature close to 20° C. for 1 hour 6 cm3 of 2 N methanesulphonic acid are added to the solution obtained and the mixture is extracted with 3 times 10 cm3 of trichloromethane. The combined organic extracts are washed with 3 times 5 cm3 of water, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (20 kPa) at about 50° C. The dry extract obtained is taken up in 5 cm3 of diisopropyl ether, drained and washed with twice 2 cm3 of the same solvent. After recrystallizing once from 30 cm3 of dimethylformamide containing 30% of ethanol, 0.3 g of 7-fluoro-1-methoxy-8-(4-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]-naphthyridine-3-carboxylic acid is obtained in the form of a brown solid melting at 270° C.

reactant | 3-ethoxycarbonyl-7-fluoro-1-methoxy-8-(4-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 0.98 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)OC)C=C(C(=C3)F)N3CCN(CC3)C)=O | C21H23FN4O4
reactant | methanesulphonic acid | 2 N, 6 cm3 | CS(=O)(=O)O | CH4O3S
solvent | ethanol | 15 cm3 | C(C)O | C2H6O
solvent | water | 9 cm3 | O | H2O
solvent | potassium hydroxide | 2 N, 6 cm3 | [OH-].[K+]
solvent | diisopropyl ether | 5 cm3 | C(C)(C)OC(C)C | C6H14O
product | 7-fluoro-1-methoxy-8-(4-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]-naphthyridine-3-carboxylic acid | 0.3 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)OC)C=C1N1CCN(CC1)C | C19H19FN4O4
